US08236826B2
Production of t-butyl[4-(5-nitropyridin-2-yloxy)phenyl]carbamate
To a solution of 4-(5-nitropyridin-2-yloxy)phenylamine (2.97 g, 12.85 mmol) in THF was added di-t-butyl dicarbonate (5.60 g, 25.66 mmol), and the resulting solution was stirred under reflux for 4 hours. The reaction solution was concentrated under reduced pressure. Water was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, evaporated, and to the resulting product was added diethyl ether. The obtained white powder was filtered, and the resulting product was washed with diethyl ether, to thereby yield 3.04 g of the title compound.

reactant | 4-(5-nitropyridin-2-yloxy)phenylamine | 12.85 mmol, 2.97 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)N | C11H9N3O3
reactant | di-t-butyl dicarbonate | 25.66 mmol, 5.60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
product | t-butyl[4-(5-nitropyridin-2-yloxy)phenyl]carbamate | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC1=NC=C(C=C1)[N+](=O)[O-])=O | C16H17N3O5
